US04987132
Ethyl 1-piperazinecarboxylate and cinnamaldehyde were used as the starting materials and treated in the same ,manner as in Reference Example 51 to give 1-cinnamylpiperazine as an oil.

reactant | Ethyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | cinnamaldehyde | C(C=CC1=CC=CC=C1)=O | C9H8O
product | 1-cinnamylpiperazine | C(C=CC1=CC=CC=C1)N1CCNCC1 | C13H18N2
